US05716944
1-Bromomethyl-4-nitronaphthalene and trimethylphosphite ((CH3O)3P) were treated in the same manner as in Reference Example 43 to yield dimethyl (4-nitro-1-naphthyl)methylphosphonate, which was then recrystallized from ethanol-hexane to yield yellow prisms having a melting point of 128°-129° C.

reactant | 1-Bromomethyl-4-nitronaphthalene | BrCC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C11H8BrNO2
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | dimethyl (4-nitro-1-naphthyl)methylphosphonate | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)CP(OC)(OC)=O | C13H14NO5P
